US08877782B2
6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 162b, 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid (200 mg, 0.65 mmol) was converted using 4-amino-tetrahydropyran instead of ethanolamine to the title compound (trituration with tert-butylmethylether, 168 mg, 66%) which was obtained as a white solid. MS: m/e=393.3 [M+H]+.

reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CNC1=NC=C(C(=O)O)C=C1 | C17H15N3O3
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 168 mg, 66% | CC1=C(C(=NO1)C1=CC=CC=C1)CNC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C22H24N4O3
